US04267193
Add 200 ml dimethylformamide to a mixture of 2,6-dimethylaniline (36.3 g, 0.30 mol), 2-chloroacetamide (74.8 g, 0.80 mol) and potassium carbonate (41.4 g, 0.3 mol). Heat at 120° for 72 hours, allow to cool, and pour into water. Extract with 1:1 ether-ethyl acetate. Wash the organic with 1.0 N HCl. Neutralize the aqueous layer with NaHCO3 and extract it with ethyl acetate. Dry, concentrate, and distill to collect a fraction, b.p. 157°-167°/0.1 mm. Recrystallize from methylene chloride-hexane to give as a solid, m.p. 91°-92°, N-aminocarbonylmethyl-2,6-dimethylaniline.

reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | 2,6-dimethylaniline | 0.30 mol, 36.3 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | 2-chloroacetamide | 0.80 mol, 74.8 g | ClCC(=O)N | C2H4ClNO
reactant | potassium carbonate | 0.3 mol, 41.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | N-aminocarbonylmethyl-2,6-dimethylaniline | NC(=O)CNC1=C(C=CC=C1C)C | C10H14N2O
